US06124323
4-(4-Methoxyphenyl)-1-(4-phenylbutyl)piperidine
The title compound was prepared from 4-(4-methoxyphenyl)piperidine hydrochloride (1.00 g, 4.39 mmol), 4-phenyl-p-tosylbutane (1.40 g, 4.61 mmol) and K2CO3 (1.24 g, 9.00 mmol) in CH3CN (25 mL) as a beige solid (979 mg, 69%): mp 48-50° C.; 1H NMR (CDCl3) 1.52-1.86 (m, 8H), 2.01 (td, J=11 and 3.6 Hz, 2H), 2.34-2.50 (m, 3H), 2.65 (t, J=7.2 Hz, 2H), 2.98-3.08 ((m, 2H), 3.79 (J, 3H), 6.85 (d, J=8.7 Hz, 2H), 7.12-7.32 (m, 7H).

reactant | 4-(4-methoxyphenyl)piperidine hydrochloride | 4.39 mmol, 1.00 g | Cl.COC1=CC=C(C=C1)C1CCNCC1
reactant | K2CO3 | 9.00 mmol, 1.24 g | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3CN | 25 mL, 979 mg | CC#N | C2H3N
product | 4-(4-Methoxyphenyl)-1-(4-phenylbutyl)piperidine | COC1=CC=C(C=C1)C1CCN(CC1)CCCCC1=CC=CC=C1 | C22H29NO
